US04921852
To a stirred solution of L-serine (3.5 g) and sodium hydrogen carbonate (7.5 g) in water (46 ml) was added 4-nitrobenzyloxycarbonyl chloride (6.4 g) in diethyl ether (10 ml) at ambient temperature. After stirring for 2 hours, to the solution were added 4-nitrobenzyloxycarbonyl chloride (6.4 g) in diethyl ether (10 ml), and sodium hydrogen carbonate (3.6 g). After stirring for 3 hours, the aqueous layer was separated and washed with ethyl acetate After adjusting the pH to 2 with concentrated hydrochloric acid, the aqueous solution was extracted twice with ethyl acetate, dried over magnesium sulfate and evaporated. To the residue were added methanol (40 ml) and concentrated sulfuric acid (0.7 ml), and the solution was stirred at 50°-55° C. for 2.5 hours. To the mixture was added triethylamine (4.2 ml) and the mixture was evaporated in vacuo. The resulting residue was poured into a mixture of ethyl acetate and water. The organic layer was separated, washed twice with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (300 ml) and eluted with a mixture of acetone and dichloromethane (8:92, V/V) to give methyl (2S)-3-hydroxy-2-[(4-nitrobenzyloxycarbonyl)amino]propionate (2.14 g).

reactant | L-serine | 3.5 g | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | sodium hydrogen carbonate | 7.5 g | C(O)([O-])=O.[Na+]
reactant | 4-nitrobenzyloxycarbonyl chloride | 6.4 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | 4-nitrobenzyloxycarbonyl chloride | 6.4 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | sodium hydrogen carbonate | 3.6 g | C(O)([O-])=O.[Na+]
solvent | water | 46 ml | O | H2O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | methyl (2S)-3-hydroxy-2-[(4-nitrobenzyloxycarbonyl)amino]propionate | 2.14 g | OC[C@@H](C(=O)OC)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O7
